US07291631B2
Under General Procedure B: Reaction of 3-phenyl-pyridine-2-carbaldehyde and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (Huang, Y. et al. J. Med. Chem. 2001, 44, 4404-4415) in MeO4 with NaBH4 gave 4-[(3-phenyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester. 1H NMR (CDCl3) δ 1.22 (m, 3H), 1.41 (s, 9H), 1.70 (m, 2H), 2.52 (m, 1H), 2.72 (m, 3H), 3.84 (s, 2H), 7.21 (q, 1H, J=4.03 Hz), 7.32 (m, 2H), 7.40 (m, 3H), 7.53 (dd, 1H, J=7.79, 1.72 Hz), 8.54 (m, 1H) ppm.

reactant | 3-phenyl-pyridine-2-carbaldehyde | C1(=CC=CC=C1)C=1C(=NC=CC1)C=O | C12H9NO
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | NaBH4 | [BH4-].[Na+]
product | 4-[(3-phenyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=NC=CC=C1C1=CC=CC=C1 | C22H29N3O2
